US07855216B2
Step 7: 7-Chloro-3-(2-fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
To a cooled (0° C.) solution of 7-chloro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (3.25 g, 7.74 mmol) in DCM (50 mL) was added iodine monochloride (1M in DCM, 17.0 mL) dropwise over 15 minutes. The mixture was allowed to warm to ambient temperature then partitioned between ethyl acetate and a saturated solution of sodium thiosulphate. The organic layer was separated, washed with water then brine, dried (Na2SO4), filtered and evaporated to give a residue. The residue was triturated with diethyl ether to provide the title compound as a yellow solid (2.62 g, 73%). LCMS (method B): RT=3.95 min, M+H+=474.

reactant | 7-chloro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 7.74 mmol, 3.25 g | C(C)OC(=O)C1=C(C=2C=NC=C(C2N1C)Cl)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C20H23ClFN3O2Si
reactant | iodine monochloride | 1M, 17.0 mL | ICl | ClI
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 7-Chloro-3-(2-fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 2.62 g, 73% | C(C)OC(=O)C1=C(C=2C=NC=C(C2N1C)Cl)NC1=C(C=C(C=C1)I)F | C17H14ClFIN3O2
